* SPICE Model for Wurth Electronics Midcom 7508110331
* Flyback Transformer
*
* NOTE: The original vendor-supplied file was an LTspice encrypted model
* that could not be loaded (likely a version incompatibility with LTspice 24+).
* This is an approximate unencrypted replacement using coupled inductors.
*
* Pin order (SpiceOrder):
*   1=pin3 (Primary+), 2=pin4 (Primary CT), 3=pin5 (Primary-),
*   4=pin2 (Auxiliary-), 5=pin1 (Auxiliary+),
*   6=pin6 (Secondary+), 7=pin9 (Secondary-)
*
* Primary inductance: ~340uH total (split at center tap)
* Auxiliary inductance: ~14uH
* Secondary inductance: ~60uH
* Turns ratio Primary:Secondary ~2.4:1, Primary:Auxiliary ~4.9:1
* Coupling coefficient: 0.998
*
* Replace Lp1/Lp2/La/Ls values with datasheet measurements for accurate results.
*
.SUBCKT 7508110331_Linear p3 p4 p5 p2 p1 p6 p9
Lp1 p3 p4 170u
Lp2 p4 p5 170u
La  p1 p2  14u
Ls  p6 p9  60u
K1 Lp1 Lp2 La Ls 0.998
.ENDS 7508110331_Linear
