* C:\Users\temuu\Desktop\Projects\variable_power_supply\ltspice_schematics\v2\smps_protoype.asc
* Generated by LTspice 24.1.5 for Windows.
V1 N002 0 SINE(0 170 60 0 0 0 0) Rser=0.1
D1 N002 N001 1N4007
D2 N005 0 1N4007
D3 0 N001 1N4007
D4 N005 N002 1N4007
V2 N003 0 PULSE(170 0 0 0 0 3.85e-6 7.69e-6) Rser=0.1
R1 N004 N006 1000
X§U1 N003 NC_01 0 NC_02 NC_03 N004 N006 7508110331_Linear
.model D D
.lib C:\Users\temuu\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0.2
.lib 7508110331_Wurth_Electronics_Midcom.lib
.lib 7508110331_Wurth_Electronics_Midcom.lib
.backanno
.end
